US07531553B2
Step A: 4-(3,4-Dinitrophenoxy)pyridine-2-carboxylic acid methylamide.
3,4-Dinitrophenol (12.3 g, 66.8 mmol) and 4-chloro-pyridine-2-carboxylic acid methylamide prepared similarly as described in patent WO 00/42012 (less than 7.79 g, 45.7 mmol, due to contaminant) in an open 50 mL round-bottom flask provided with stir bar and fitted with running water condenser. The reaction was heated at 150° C. for 1 h and at 170° C. for 16 h. The reaction was cooled to RT and dissolved in CH2Cl2 and 2N NaOH (aq). The layers were separated, and the organic layer was washed with a mix of brine and 2 N NaOH. The aqueous layers were back-extracted with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was purified by silica gel column chromatography using a hexanes-to-hexanes/EtOAc gradient, to yield the title compound.

reactant | 3,4-Dinitrophenol | 66.8 mmol, 12.3 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])O | C6H4N2O5
reactant | 4-chloro-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)Cl | C7H7ClN2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaOH | 2N | [OH-].[Na+]
product | 4-(3,4-Dinitrophenoxy)pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C13H10N4O6
